US07696229B2
Oxalyl chloride (20 g, 157.60 mmol) was added dropwise at room temperature to a solution of 1-methyl-1,2,3,4-tetrahydroquinoline-6-sulfonic acid (5 g, 22.00 mmol) in dichloromethane (100 mL) and DMF (10 mL). The resulting solution was stirred for 2 hours, then quenched by adding 200 mL of iced water. The resulting solution was extracted using dichloromethane (2×100 mL), and the combined organics were dried (Na2SO4), filtered and concentrated. The residue was purified by column chromatography using a 1:4 ethyl acetate/petroleum ether solvent system to afford 1.1 g (20.1%) of 1-methyl-1,2,3,4-tetrahydroquinoline-6-sulfonyl chloride as a yellow solid. 1H NMR (CDCl3) δ 7.69 (d, 1H), 7.51 (s, 1H), 6.54 (d, 1H), 3.57 (t, 2H), 3.02 (s, 3H), 2.78 (d, 2H), 1.98 (m, 2H).

reactant | Oxalyl chloride | 157.60 mmol, 20 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methyl-1,2,3,4-tetrahydroquinoline-6-sulfonic acid | 22.00 mmol, 5 g | CN1CCCC2=CC(=CC=C12)S(=O)(=O)O | C10H13NO3S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-methyl-1,2,3,4-tetrahydroquinoline-6-sulfonyl chloride | 1.1 g, 20.1% | CN1CCCC2=CC(=CC=C12)S(=O)(=O)Cl | C10H12ClNO2S
